US06359134B1
1-(2H-Benzopyrane-3-sulfonyl)piperazine hydrochloride
1-(2H-Benzopyrane-3-sulfonyl)-4-(tert-butoxycarbonyl)piperazine was treated with 4N hydrochloric acid in ethyl acetate to give a colorless solid of the title compound.

reactant | 1-(2H-Benzopyrane-3-sulfonyl)-4-(tert-butoxycarbonyl)piperazine | O1CC(=CC2=C1C=CC=C2)S(=O)(=O)N2CCN(CC2)C(=O)OC(C)(C)C | C18H24N2O5S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2H-Benzopyrane-3-sulfonyl)piperazine hydrochloride | Cl.O1CC(=CC2=C1C=CC=C2)S(=O)(=O)N2CCNCC2 | InChI=1S/C13H16N2O3S.ClH/c16-19(17,15-7-5-14-6-8-15)12-9-11-3-1-2-4-13(11)18-10-12;/h1-4,9,14H,5-8,10H2;1H
